US04649160
The 1-benzyloxy-4-(2-phenethyloxyethoxy)benzene obtained according to the preceding paragraph was dissolved in 200 ml of ethanol and 200 ml of ethyl acetate and hydrogenated overnight at atmospheric pressure and room temperature in the presence of 0.4 g of 10% palladium/carbon. The catalyst was removed by filtration and the filtrate was evaporated to give 10.8 g (91%) of 4-(2-phenethyloxyethoxy)phenol in the form of an oil which was homogeneous according to chromatography.

reactant | 1-benzyloxy-4-(2-phenethyloxyethoxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCOCCC1=CC=CC=C1 | C23H24O3
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.4 g | [Pd] | Pd
product | 4-(2-phenethyloxyethoxy)phenol | 10.8 g, 91% | C(CC1=CC=CC=C1)OCCOC1=CC=C(C=C1)O | C16H18O3
